US06284785B1
c) 5-(3-Fluoro-phenyl)-3,4-dihydro-2H-pyrrole
4-(3-Fluoro-phenyl)-4-oxo-butyronitrile (1.60 g, 9.03 mmol) dissolved in MeOH (45 ml) and 3.5 N MeOH-NH3 (45 ml) was hydrogenated on Ra-Ni at RT for 16 h. The catalyst was filtered off, the filtrate evaporated and the crude product purified by column chromatography on silica gel (ethyl acetate/toluene 1:2) to give the product (1.16 g, 79%) as a colorless oil, MS: m/e=163 (M+).

reactant | 4-(3-Fluoro-phenyl)-4-oxo-butyronitrile | 9.03 mmol, 1.60 g | FC=1C=C(C=CC1)C(CCC#N)=O | C10H8FNO
reactant | MeOH NH3 | 3.5 N, 45 ml | CO.N
solvent | MeOH | 45 ml | CO | CH4O
product | 5-(3-Fluoro-phenyl)-3,4-dihydro-2H-pyrrole | 1.16 g, 79% | FC=1C=C(C=CC1)C=1CCCN1 | C10H10FN
